US07566699B2
To a solution of 4′-benzyloxy-6′-hydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone (0.53 g) in methanol (10 mL) was added sodium methoxide (28% methanol solution, 0.72 mL), and the mixture was heated for reflux overnight. The reaction mixture was cooled to room temperature and acidified by addition of 1 mol/L hydrochloric acid. The resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1-3/1) to give 6-benzyloxy-4-hydroxy-3-(2-phenylethyl)benzofuran (98 mg). This material was dissolved in dichloromethane (5 mL). To the solution were added 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.42 g) and boron trifluoride-diethyl ether complex (0.11 mL) successively, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-3/2) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6-benzyloxy-3-(2-phenylethyl)benzofuran (0.19 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution was added 10% palladium-carbon powder (21 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 1.5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethylacetate=2/1-3/2-1/1) to give the title compound (70 mg).

reactant | 4′-benzyloxy-6′-hydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone | 0.53 g | C(C1=CC=CC=C1)OC1=CC(=C(C(C=CC2CC=CC=C2)=O)C(=C1)O)OCC(=O)OC | C25H24O6
reactant | sodium methoxide | 0.72 mL | C[O-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 6-benzyloxy-4-hydroxy-3-(2-phenylethyl)benzofuran | 98 mg | C(C1=CC=CC=C1)OC1=CC2=C(C(=CO2)CCC2=CC=CC=C2)C(=C1)O | C23H20O3
